US07294631B2
8.2 1′-(3-Fluorobenzoyl)-8-pyrimidin-4-yl-3,4-dihydrospiro[pyrimido[1,2-a]pyrimidine-2,3′-pyrrolidin]-6(1H)-one
To a solution of 0.3 g (1.055 mmol) of 8-pyrimidin-4-yl-3,4-dihydrospiro[pyrimido[1,2-a]pyrimidine-2,3′-pyrrolidin]-6(1H)-one dissolved in 5 ml of tetrahydrofuran at room temperature were added 0.18 ml (1.27 mmol) of triethylamine and 0.152 ml (1.27 mmol) of 3-fluoro-benzoyl chloride. The resulting mixture was stirred at room temperature under nitrogen atmosphere for 2 h. The reaction mixture was added to a saturated aqueous solution of ammonium chloride, extracted with a mixture of dichloromethane/methanol in the proportions of 100/0 to 80/20, dried and evaporated. The residue was purified by chromatography on silica gel eluting with a mixture of dichloromethane/methanol in the proportions of 100/0 to 70/30 to give 0.310 g (72%) of pure product as grey solid. Mp: 296-298° C.

reactant | 8-pyrimidin-4-yl-3,4-dihydrospiro[pyrimido[1,2-a]pyrimidine-2,3′-pyrrolidin]-6(1H)-one | 1.055 mmol, 0.3 g | N1=CN=C(C=C1)C=1N=C2N(CCC3(CNCC3)N2)C(C1)=O | C14H16N6O
reactant | triethylamine | 1.27 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | 3-fluoro-benzoyl chloride | 1.27 mmol, 0.152 ml | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1′-(3-Fluorobenzoyl)-8-pyrimidin-4-yl-3,4-dihydrospiro[pyrimido[1,2-a]pyrimidine-2,3′-pyrrolidin]-6(1H)-one | 0.310 g, 72% | FC=1C=C(C(=O)N2CC3(CC2)NC=2N(CC3)C(C=C(N2)C2=NC=NC=C2)=O)C=CC1 | C21H19FN6O2
